US09403839B2
To a solution of methylpyridine-3-carboxylate (20.0 g, 146 mmol) in THF (200 mL) was added acetone (50 mL, 681.0 mmol). Sodium methoxide (32.7 mL of 25% w/w, 146.0 mmol) was added dropwsie at rt under N2. The mixture was stirred at rt for 72 hours, quenched with sat. NH4Cl, acidifed with 1 N HCl to pH-5. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to dryness. The crude material was purified by column chromatography (0-10% EtOAc-Hex) to provide 1-(3-pyridyl)butane-1,3-dione (7 g) as a light yellow crystalline solid. 1H NMR (400 MHz, CDCl3) δ 15.98 (s, 1H), 9.19-8.99 (m, 1H), 8.74 (dd, J=4.8, 1.7 Hz, 1H), 8.34-8.04 (m, 1H), 7.41 (ddd, J=8.0, 4.8, 0.8 Hz, 1H), 6.20 (s, 1H), 2.24 (s, 3H). ESI-MS m/z calc. 163.06, found 164.3 (M+1)+; Retention time: 0.32 minutes (3 min run).

reactant | methylpyridine-3-carboxylate | 146 mmol, 20.0 g | COC(=O)C=1C=NC=CC1 | C7H7NO2
reactant | acetone | 681.0 mmol, 50 mL | CC(=O)C | C3H6O
reactant | Sodium methoxide | 146.0 mmol, 32.7 mL | C[O-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(3-pyridyl)butane-1,3-dione | 7 g | N1=CC(=CC=C1)C(CC(C)=O)=O | C9H9NO2
